US06930185B2
The N-[2-(hydroxymethyl)-6-quinolinyl]acetamide (92.3 mg, 0.427 mmol) obtained in Reference Example 5 and triethylamine (0.0712 ml, 0.512 mmol) were dissolved in N,N-dimethylformamide (2 ml), methanesulfonyl chloride (0.0396 ml, 0.512 mmol) was added under ice-cooling, and the mixture was stirred for 30 minutes. To the reaction solution were added dimethylamine hydrochloride (69.6 mg, 0.854 mmol) and potassium carbonate (177 mg, 1.28 mmol), and the mixture was stirred at 60° C. for 16 hours. To the reaction solution was added an aqueous potassium carbonate solution, followed by extraction with ethyl acetate. The extract was washed with an aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by alumina column chromatography (developing solvent: ethyl acetate) to obtain N-[2-[(N,N-dimethylamino)methyl]-6-quinolinyl]acetamide (71.9 mg) as an oil.

reactant | N-[2-(hydroxymethyl)-6-quinolinyl]acetamide | 0.427 mmol, 92.3 mg | OCC1=NC2=CC=C(C=C2C=C1)NC(C)=O | C12H12N2O2
reactant | triethylamine | 0.512 mmol, 0.0712 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.512 mmol, 0.0396 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | dimethylamine hydrochloride | 0.854 mmol, 69.6 mg | Cl.CNC
reactant | potassium carbonate | 1.28 mmol, 177 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-[2-[(N,N-dimethylamino)methyl]-6-quinolinyl]acetamide | 71.9 mg | CN(C)CC1=NC2=CC=C(C=C2C=C1)NC(C)=O | C14H17N3O
